US05508272
c) (S)-2-Amino-5,5-dimethoxypentanoic acid, methyl ester
(S)-2-Phthalimido-5,5-dimethoxypentanoic acid, methyl ester [prepared as described in Example 4 (f), 3.35 g., 10.43 mmol.) in methanol (70 ml.) was treated with hydrazine monohydrate (531 μl., 10.95 mmol., 1.05 eq.) and the solution was stirred at room temperature for 6 days. The mixture was filtered and the solid was washed with methanol. The filtrate was concentrated, triturated with methylene chloride, filtered again, concentrated, and dried in vacuo to yield 1.89 g. of title product as a cloudy oil. TLC (10% methanol in methylene chloride) Rf =0.39.

reactant | (S)-2-Phthalimido-5,5-dimethoxypentanoic acid, methyl ester | C1(C=2C(C(N1[C@H](C(=O)OC)CCC(OC)OC)=O)=CC=CC2)=O | C16H19NO6
reactant | hydrazine monohydrate | 10.95 mmol, 531 μl, 1.05 eq. | O.NN
solvent | methanol | 70 ml | CO | CH4O
product | (S)-2-Amino-5,5-dimethoxypentanoic acid, methyl ester | N[C@H](C(=O)OC)CCC(OC)OC | C8H17NO4
